US04937251
A mixture of 3-pyridineethanol (4 g), 1,6-dibromohexane (23.78 g), TAB (0.5 g) and 2N sodium hydroxide (50 ml) was vigorously stirred for 3 h. The mixture was diluted with water (75 ml), extracted with ethyl acetate and the combined organic extracts were washed with brine (150 ml), dried and evaporated. The resulting oil was purified by FCC eluting with hexane→hexane-ethyl acetate (19:1) to give 3-[2-[(6-bromohexyl)oxy]ethyl]pyridine (6 g). A solution of this bromocompound (5 g) and benzylamine (15 ml) was stirred at 140° under nitrogen for 1 h. The cooled reaction mixture was partitioned between sodium bicarbonate (150 ml) and ethyl acetate (50 ml). The organic layer was washed with brine (50 ml), dried and concentrated to give a yellow oil. The excess benzylamine was removed by distillation and the resulting oil was purified by FCC eluting with System C (95:5:1) to give the title compound as a yellow oil (4 g), t.l.c. (System A 80:20:1) Rf 0.5.

reactant | 3-pyridineethanol | 4 g | N1=CC(=CC=C1)CCO | C7H9NO
reactant | 1,6-dibromohexane | 23.78 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
solvent | water | 75 ml | O | H2O
product | 3-[2-[(6-bromohexyl)oxy]ethyl]pyridine | 6 g | BrCCCCCCOCCC=1C=NC=CC1 | C13H20BrNO
